US06133266
Methyl 2-(5-acetyl-2-hydroxyphenyl)acetate (8.0 g) was dissolved in 120 ml of N,N-dimethylformamide, 5 ml of benzyl bromide and 5.8 g of potassium carbonate were added to the solution, and the mixture was stirred at room temperature for 16 hours. About 100 g of ice and 200 ml of hexane were added to the reaction solution, and the mixture was vigorously stirred while adding 200 ml of water. Thereafter, the precipitated crystals were collected by filtration and recrystallized from methylene chloride-hexane to give 10.1 g of methyl 2-(5-acetyl-2-benzyloxyphenyl)acetate having a melting point of 85 to 87° C.

reactant | Methyl 2-(5-acetyl-2-hydroxyphenyl)acetate | 8.0 g | C(C)(=O)C=1C=CC(=C(C1)CC(=O)OC)O | C11H12O4
reactant | benzyl bromide | 5 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 5.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexane | 200 ml | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | methyl 2-(5-acetyl-2-benzyloxyphenyl)acetate | 10.1 g | C(C)(=O)C=1C=CC(=C(C1)CC(=O)OC)OCC1=CC=CC=C1 | C18H18O4
